US07176199B2
Preparation of (2S)-2-benzyloxycarbonylamino-3-[[4-(3-nitrophenyl)piperazin-1-yl]carbonylamino]propanoic acid methyl ester:
To a solution of the compound of Reference Example 13 (300 mg) and ethyldiisopropylamine (0.656 ml) in dichloromethane (10 ml) is added chloroformic acid p-nitrophenyl ester (273 mg), and the mixture is stirred at 25° C. for 6 hours. To the reaction solution are added a solution of (2S)-3-amino-2-(benzyloxycarbonylamino)propanoic acid methyl ester hydrochloride (709 mg) and ethyldiisopropylamine (0.65 ml) in dimethylformamide (20 ml), and the mixture is stirred at 60° C. overnight. The reaction solution is diluted with ethyl acetate, and then the mixture is washed successively with 10% aqueous citric acid solution, saturated aqueous sodium hydrogen carbonate solution, and saturated brine, dried over magnesium sulfate, and the solvent is evaporated under reduced pressure. The residue is purified by silica gel column chromatography (eluent: gradient, 0% to 100% ethyl acetate/hexane) to give the title compound (120 mg).

reactant | ethyldiisopropylamine | 0.656 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | chloroformic acid p-nitrophenyl ester | 273 mg | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)Cl | C7H4ClNO4
reactant | (2S)-3-amino-2-(benzyloxycarbonylamino)propanoic acid methyl ester hydrochloride | 709 mg | Cl.COC([C@H](CN)NC(=O)OCC1=CC=CC=C1)=O
reactant | ethyldiisopropylamine | 0.65 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2S)-2-benzyloxycarbonylamino-3-[[4-(3-nitrophenyl)piperazin-1-yl]carbonylamino]propanoic acid methyl ester | 120 mg | COC([C@H](CNC(=O)N1CCN(CC1)C1=CC(=CC=C1)[N+](=O)[O-])NC(=O)OCC1=CC=CC=C1)=O | C23H27N5O7
